US08735413B2
i) 2-(4-Fluorobenzylthio)pyrimidine-4,6-diol
Sodium acetate (113 g) was added to a suspension of 2-mercaptopyrimidine-4,6-diol (80 g) in water (900 mL) at room temperature. A solution of 1-(bromomethyl)-4-fluorobenzene (105 g) in acetonitrile (90 mL) was added dropwise over 2 hours. The reaction was allowed to stir for 20 hours before the suspension was filtered and washed with water (3×) and isohexane (3×). The solid was dried in vacuo for 2 hours and azeotroped with toluene (3×) to afford the sub-title product (125 g) as a white solid.

reactant | Sodium acetate | 113 g | C(C)(=O)[O-].[Na+]
reactant | 2-mercaptopyrimidine-4,6-diol | 80 g | SC1=NC(=CC(=N1)O)O | C4H4N2O2S
reactant | 1-(bromomethyl)-4-fluorobenzene | 105 g | BrCC1=CC=C(C=C1)F | C7H6BrF
solvent | water | 900 mL | O | H2O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | 2-(4-Fluorobenzylthio)pyrimidine-4,6-diol | 125 g | FC1=CC=C(CSC2=NC(=CC(=N2)O)O)C=C1 | C11H9FN2O2S
